US07429605B2
6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine
A solution of 359 mg (1.65 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 20.0 ml N,N-dimethylformamide was treated at 0° C. with 66 mg (1.65 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 500 mg (1.65 mmol) 3-Chloromethyl-6-(2-fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridine were added and stirred continued at r. t. over night. After addition of 40 ml water, the precipitate was isolated, washed thoroughly with water and diisopropylether. The residue was dried at 40° C. to give 618 mg (77%) of the title compound as light brown powder.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 1.65 mmol, 359 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | sodium hydride | 1.65 mmol, 66 mg | [H-].[Na+]
reactant | 3-Chloromethyl-6-(2-fluoro-4-trifluoromethyl-phenyl)-2-methyl-pyridine | 1.65 mmol, 500 mg | ClCC=1C(=NC(=CC1)C1=C(C=C(C=C1)C(F)(F)F)F)C | C14H10ClF4N
reactant | water | 40 ml | O | H2O
solvent | N,N-dimethylformamide | 20.0 ml | CN(C=O)C | C3H7NO
product | 6-(2-Fluoro-4-trifluoromethyl-phenyl)-2-methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine | 618 mg, 77% | FC1=C(C=CC(=C1)C(F)(F)F)C1=CC=C(C(=N1)C)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C26H24F4N4O
